US08735384B2
To a solution of 2-bromo-3-methylbenzoic acid (1.0 g, 4.65 mmol) and 1H-indole (0.60 g, 5.12 mmol) in DCM (23.3 mL) at RT was added DCC (1.15 g, 5.58 mmol) and 4-dimethylaminopyridine (0.11 g, 0.93 mmol). The reaction was stirred at RT overnight. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was then washed with water and brine (3× ea.), dried over Na2SO4 and concentrated in vacuo. The crude material was purified by column chromatography (0-50% Hexene/EtOAC) to yield (2-bromo-3-methylphenyl)(1H-indol-1-yl)methanone as a clear oil.

reactant | 2-bromo-3-methylbenzoic acid | 4.65 mmol, 1.0 g | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | 1H-indole | 5.12 mmol, 0.60 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | DCC | 5.58 mmol, 1.15 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 23.3 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.93 mmol, 0.11 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2-bromo-3-methylphenyl)(1H-indol-1-yl)methanone | BrC1=C(C=CC=C1C)C(=O)N1C=CC2=CC=CC=C12 | C16H12BrNO
